US04119729
Reaction of the chlorohydrin derivative of 4-(methylsulfonyl)-3-isopropylphenol with isopropylamine according to the procedure of Example 1 (a) affords 1-(ISOPROPYLAMINO)-3-[4-(METHYLSULFONYL)-3-ISOPROPYLPHENOXY]-2-PROPANOL.

reactant | 4-(methylsulfonyl)-3-isopropylphenol | CS(=O)(=O)C1=C(C=C(C=C1)O)C(C)C | C10H14O3S
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 1-(ISOPROPYLAMINO)-3-[4-(METHYLSULFONYL)-3-ISOPROPYLPHENOXY]-2-PROPANOL | C(C)(C)NCC(COC1=CC(=C(C=C1)S(=O)(=O)C)C(C)C)O | C16H27NO4S
